US07179804B2
3-[1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-2-(2-chloro-benzoyl)-3-oxo-propionitrile
Add Dess-Martin periodinane (1.5 g, 3.54 mmol) to a solution of [1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone (0.7 g, 1.17 mmol) in dichloromethane (10.0 mL). Stir at RT for 4 h, dilute with EtOAc and wash with 2N NaOH, water and brine, then dry, filter, and concentrate. Recyrstallize crude material from dichloromethane to give the title compound. (0.10 g, 15%). MS [ES] 567.0 (M+H)+, 565.0 (M−H); 1H NMR (400 MHz, DMSO-d6) δ 8.04 (s, 1H), 7.70 (s, 2H), 7.69 (s, 1H), 7.25 (br s, 2H), 7.19 (m, 2H), 7.03 (s, 1H), 6.98 (m, 1H), 5.68 (s, 2H).

reactant | Dess-Martin periodinane | 3.54 mmol, 1.5 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | [1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-[5-(2-chloro-phenyl)-3-hydroxymethyl-isoxazol-4-yl]-methanone | 1.17 mmol, 0.7 g | FC(C=1C=C(CN2N=NC(=C2N2C=NC=C2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CO)C=C(C1)C(F)(F)F)(F)F | C25H15ClF6N6O3
solvent | dichloromethane | 10.0 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[1-(3,5-Bis-trifluoromethyl-benzyl)-5-imidazol-1-yl-1H-[1,2,3]triazol-4-yl]-2-(2-chloro-benzoyl)-3-oxo-propionitrile | FC(C=1C=C(CN2N=NC(=C2N2C=NC=C2)C(C(C#N)C(C2=C(C=CC=C2)Cl)=O)=O)C=C(C1)C(F)(F)F)(F)F | C24H13ClF6N6O2
